US06417212B1
A solution of 4,5-dimethyl-2-(4-bromophenyl)-oxazole oxide (96.6 g, 0.36 mol) in CHCl3 (0.90 L) was treated dropwise with phosphorous oxychloride (61.1 g, 0.40 mol) allowing the reaction to exotherm and then was stirred at reflux for 30 min. The reaction was then cooled to room temperature and washed with water (2×1 L). The combined aqueous washes were back extracted with CH2Cl2 (2×400 mL). The organic layers were dried (MgSO4), and the solvent removed in vacuo to give crude product that was recrystallized from hot hexanes (300 mL), decanting the hot supernate away from a dark oily material. The remaining dark oil was agitated in additional hot hexanes (200 mL) and the combined supernates were cooled to 0° C. to crystallize the product which was isolated by filtration to give 74.2 g (72%) of 2-(4-bromophenyl-4-(chloromethyl)-5-methyloxazole as a lime-green powder: Rf=0.39 in 20% ethyl acetate/hexanes; 1H NMR (500 MHz, CDCl3) 7.88-7.86 (m, 2H), 7.59-7.56 (m, 2H), 4.54 (s, 2H), 2.42 (s, 3H); 13C (125 MHz, CDCl3) 159.2, 146.9, 133.2, 132.0, 127.6, 126.1, 124.7, 37.1, 11.5; IR (KBr) 2970, 1633, 1599, 1481, 1401, 1258, 1117, 1008 cm−1; UV (EtOH)max 281 nm (21349); HRMS (FAB) m/z calculated for C11H1079BrClNO: 285.9634, found 285.9641; Anal. Calculated for C11H9ClBrNO: C, 46.11; H, 3.17; N, 4.89; Cl, 12.37; Br, 27.88. Found C, 46.28; H, 3.07; N, 4.81; Cl, 12.36; Br, 27.88.

reactant | 4,5-dimethyl-2-(4-bromophenyl)-oxazole oxide | 0.36 mol, 96.6 g | CC=1[N+](=C(OC1C)C1=CC=C(C=C1)Br)[O-] | C11H10BrNO2
reactant | phosphorous oxychloride | 0.40 mol, 61.1 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | CHCl3 | 0.90 L | C(Cl)(Cl)Cl | CHCl3
product | 4-bromophenyl-4-(chloromethyl)-5-methyloxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCl)C | C11H9BrClNO
